US08314087B2
2-(4-(tert-Butyldimethylsilyloxy)phenethyl)-6-phenylpyridazin-3(2H)-one.
A mixture of (4-(2-bromoethyl)phenoxy)(tert-butyl)dimethylsilane (142 mg, 450 μmol), 6-phenyl-3(2h)-pyridazinone (116 mg, 676 μmol), and potassium carbonate (187 mg, 1351 μmol) in DMF (1.5 mL) was stirred at 40° C. for 18 h. The mixture was partioned between CH2Cl2 (20 mL) and 5% NaHCO3 (10 mL). The organic layer was dried with satd. NH4Cl and over MgSO4, and dried to a film from toluene under reduced pressure. The residue was purified on 40 g silica eluting with 0>2.5% MeOH/CH2Cl2. MS (ESI pos. ion) m/z (MH+): 407 (MH+). Calc'd exact mass for C24H30N2O2Si: 406.

reactant | (4-(2-bromoethyl)phenoxy)(tert-butyl)dimethylsilane | 450 μmol, 142 mg | BrCCC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C14H23BrOSi
reactant | 6-phenyl-3(2h)-pyridazinone | 676 μmol, 116 mg | C1(=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O
reactant | potassium carbonate | 1351 μmol, 187 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(tert-Butyldimethylsilyloxy)phenethyl)-6-phenylpyridazin-3(2H)-one | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CCN2N=C(C=CC2=O)C2=CC=CC=C2)C=C1 | C24H30N2O2Si
